US05686228
Preparation of 2-cyano-3-hydroxy-4,4,4-trifluorobutenoic acid ethyl ester (PR-07):
To a solution of ethyl cyanoacetate (1.0 g, 8.8 mmol) in 20 mL of tetrahydrofuran was added 1,8-diazabicyclo[5.4.0]undec-7-ene (2.7 g, 8.8 mmol) over 15 minutes. Trifluoroacetic anhydride (3.7 g, 17.7 mmol) was then added at 0° C. via the addition funnel over 30 minutes. The solution was then stirred for 2 hours at room temperature. The organic layer was washed with 2N HCl (3×15 mL), dried over magnesium sulfate, and evaporated to dryness. The resulting liquid was purified by Kugelrohr distillation (80° C. @3 mm Hg) to yield 0.95 g of colorless liquid.

reactant | ethyl cyanoacetate | 8.8 mmol, 1.0 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 8.8 mmol, 2.7 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | Trifluoroacetic anhydride | 17.7 mmol, 3.7 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-cyano-3-hydroxy-4,4,4-trifluorobutenoic acid ethyl ester | 0.95 g | C(C)OC(C(=C(C(F)(F)F)O)C#N)=O | C7H6F3NO3
